US07067506B2
Step 2: 2-Methoxy-4-methoxymethyl-phenylamine.
In a 250 mL Parr apparatus, 2.1 g (10.6 mmol) of 2-methoxy-4-methoxymethyl-1-nitro-benzene, in 40 mL of ethanol was hydrogenated at 2 atm over 300 mg of 10% Pd on carbon for 2.5 h. The catalyst was removed by filtration through a glass fiber filter and the filtrate was concentrated to give 1.61 g (91%) of product as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ6.80 (s, 1H), 6.74 (d, J=7.8 Hz, 1H), 6.67 (d, J=7.8 Hz), 4.35 (s, 2H), 3.86 (s, 3H), 3.78 (br d, 2H), 3.35 (s, 3H). MS ESI-pos, M+1=168.1

reactant | 2-methoxy-4-methoxymethyl-1-nitro-benzene | 10.6 mmol, 2.1 g | COC1=C(C=CC(=C1)COC)[N+](=O)[O-] | C9H11NO4
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 300 mg | [Pd] | Pd
product | 2-Methoxy-4-methoxymethyl-phenylamine | 1.61 g, 91% | COC1=C(C=CC(=C1)COC)N | C9H13NO2
